US06117873
a) 7-Chloro-5-methyl-1,4-dihydroquinoxalin-2,3-dione
123 g (0.79 mol) of 2,3-diamino-5-chlorotoluene and 106.2 g (1.18 mol) of oxalic acid are heated at reflux for 5 hours in 800 ml of 4N hydrochloric acid. The reaction mixture is allowed to cool, and is diluted with water, filtered off on a suction filter and washed with water. The product is then stirred in hot ethanol, filtered off on a suction filter and the suction filter material is dried in vacuo at 60°. The title compound is obtained as slightly grayish crystals of m.p.>250°.

reactant | 2,3-diamino-5-chlorotoluene | 0.79 mol, 123 g | NC1=C(C=C(C=C1N)Cl)C | C7H9ClN2
reactant | oxalic acid | 1.18 mol, 106.2 g | C(C(=O)O)(=O)O | C2H2O4
solvent | hydrochloric acid | 4N, 800 ml | Cl | ClH
solvent | water | O | H2O
product | 7-Chloro-5-methyl-1,4-dihydroquinoxalin-2,3-dione | ClC1=CC(=C2NC(C(NC2=C1)=O)=O)C | C9H7ClN2O2
